US07465808B2
To a stirred solution of (2S,3aS,8aR)-3-{3-[5-(3,4-dichlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-2-m-tolyl-propionyl}-3,3a,8,8a-tetrahydro-indeno[1,2-d]oxazol-2-one (20.7 g, 0.0323 mol) in THF (230 mL) and H2O (45 mL) at 0° C. was added 30% H2O2 (15.0 mL, 0.147 mol) followed by LiOH hydrate (2.75 g, 0.0655 mol) in H2O (15 mL). The reaction mixture was allowed to warm to rt and was stirred for 90 min. The mixture was cooled to 0° C. and then quenched with 1.5 N Na2SO3 (20 mL) maintaining pH 9-10. The mixture was concentrated to ¼ volume, then treated with H2O (200 mL) and acidified to pH 1-2 using 3 N HCl. The aqueous layer was washed with EtOAc (3×100 mL). The combined organic layers were dried with Na2SO4, filtered and concentrated to ¼ volume. Solid crystals that developed overnight were filtered and washed with cold 1:1 hexane/EtOAc. The chiral auxiliary was recovered in 66% yield (3.72 g). The filtrate was purified by flash chromatography (7:3 hexane/EtOAc with 0.3% MeOH) to afford 12.7 g (81.5%) of (S)-3-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-m-tolyl-propionic acid as orange oil. HPLC: Rt=10.44 (Method E). MS (ES+): mass calculated for C26H22Cl2N3, 481.37; m/z found 503.2 [M+Na]+. 1H NMR (400 MHz, CDCl3): 7.12-7.31 (m, 9H), 6.90 (dd, J=6.3, 2.0 Hz, 1H), 6.86 (d, J=9.1 Hz, 2H), 6.21 (s, 1H), 4.07-4.15 (m, 1H), 3.82 (s, 3H), 3.53 (dd, J=9.3, 5.3 Hz, 1H), 3.10 (dd, J=9.1, 5.8 Hz, 1H), 2.35 (s, 3H).

reactant | (2S,3aS,8aR)-3-{3-[5-(3,4-dichlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-2-m-tolyl-propionyl}-3,3a,8,8a-tetrahydro-indeno[1,2-d]oxazol-2-one | 0.0323 mol, 20.7 g | ClC=1C=C(C=CC1Cl)C1=CC(=NN1C1=CC=C(C=C1)OC)C[C@H](C(=O)N1C(O[C@H]2[C@@H]1C=1C=CC=CC1C2)=O)C=2C=C(C=CC2)C | C36H29Cl2N3O4
reactant | H2O2 | 0.147 mol, 15.0 mL | OO | H2O2
reactant | LiOH hydrate | 0.0655 mol, 2.75 g | O[Li].O
solvent | THF | 230 mL | C1CCOC1 | C4H8O
solvent | H2O | 45 mL | O | H2O
solvent | H2O | 15 mL | O | H2O
product | (S)-3-[5-(3,4-dichloro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrazol-3-yl]-2-m-tolyl-propionic acid | 12.7 g, 81.5% | ClC=1C=C(C=CC1Cl)C1=CC(=NN1C1=CC=C(C=C1)OC)C[C@H](C(=O)O)C=1C=C(C=CC1)C | C26H22Cl2N2O3
